US08975400B2
1-methoxy-3-nitro-5-(trifluoromethyl)benzene
To a solution of 1,3-dinitro-5-(trifluoromethyl)benzene (10 g, 42.4 mmol) in absolute methanol (100 mL) was added sodium methanolate (3.43 g, 63.5 mmol) in absolute methanol (20 mL). The red alcoholic solution was refluxed for 1 h, then concentrated to remove solvent, diluted with ethyl acetate (80 mL) and water (30 mL). Separated organic part was dried over Na2SO4, filtered and concentrated to get the title product (8.5 g) as a red solid

reactant | 1,3-dinitro-5-(trifluoromethyl)benzene | 42.4 mmol, 10 g | [N+](=O)([O-])C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F3N2O4
reactant | sodium methanolate | 63.5 mmol, 3.43 g | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 1-methoxy-3-nitro-5-(trifluoromethyl)benzene | 8.5 g | COC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
